US05488055
A mixture of 1-ethyl-4-chloro-7-carboxy-1H-pyrazolo[3,4-b]quinoline (0.9 g, 3.3 mmol), DMSO (9 ml) and cyclohexanemethyl amine (0.86 ml, 6.6 mmol) was heated at 120°-130° C. for 6 hours. The reaction mixture was poured into water, acidified with acetic acid and the solid which formed was collected by filtration, dissolved in 5% NaOH and extracted with CH2Cl2 (2×50 ml). The aqueous layer was acidified with acetic acid and the solid which formed was collected by filtration and washed with water. The solid was purified by column chromatography on silica gel eluting with 30% methanol/10% acetic acid/60% CH2Cl2 to afford 1-ethyl-7-carboxy-N-(cyclohexylmethyl)-1H-pyrazolo[3,4-b]quinolin-4-amine, as a yellow solid.

reactant | 1-ethyl-4-chloro-7-carboxy-1H-pyrazolo[3,4-b]quinoline | 3.3 mmol, 0.9 g | C(C)N1N=CC=2C1=NC1=CC(=CC=C1C2Cl)C(=O)O | C13H10ClN3O2
reactant | DMSO | 9 ml | CS(=O)C | C2H6OS
reactant | cyclohexanemethyl amine | 6.6 mmol, 0.86 ml | C1(CCCCC1)CN | C7H15N
reactant | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-ethyl-7-carboxy-N-(cyclohexylmethyl)-1H-pyrazolo[3,4-b]quinolin-4-amine | C(C)N1N=CC=2C1=NC1=CC(=CC=C1C2NCC2CCCCC2)C(=O)O | C20H24N4O2
